Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Upper Endoscopy
Colonoscopy

attach
 
Pertinent Results:
ADMISSION LABS
===============
___ 08:17PM BLOOD WBC-10.9* RBC-4.92 Hgb-14.5 Hct-43.9 
MCV-89 MCH-29.5 MCHC-33.0 RDW-12.2 RDWSD-39.8 Plt ___
___ 08:17PM BLOOD Neuts-68.4 Lymphs-18.4* Monos-10.7 
Eos-1.3 Baso-0.4 Im ___ AbsNeut-7.42* AbsLymp-2.00 
AbsMono-1.16* AbsEos-0.14 AbsBaso-0.04
___ 08:22PM BLOOD ___ PTT-41.0* ___
___ 08:17PM BLOOD Glucose-85 UreaN-18 Creat-0.8 Na-139 
K-4.4 Cl-99 HCO3-24 AnGap-16
___ 08:17PM BLOOD ALT-17 AST-22 LD(LDH)-371* AlkPhos-119 
TotBili-0.3
___ 08:17PM BLOOD cTropnT-<0.01
___ 08:17PM BLOOD proBNP-24
___ 08:17PM BLOOD Albumin-5.1

DISCHARGE LABS
==============
___ 07:40AM BLOOD WBC-9.3 RBC-4.85 Hgb-14.5 Hct-42.7 MCV-88 
MCH-29.9 MCHC-34.0 RDW-12.2 RDWSD-39.6 Plt ___
___ 07:40AM BLOOD ___ PTT-35.2 ___
___ 07:40AM BLOOD Glucose-101* UreaN-18 Creat-1.1 Na-140 
K-4.8 Cl-100 HCO3-29 AnGap-11
___ 07:40AM BLOOD Calcium-9.5 Phos-3.6 Mg-2.3

REPORTS
========
CTA Chest ___  
IMPRESSION: 
1. Large pulmonary embolus within the left main pulmonary artery 
and extending 
distally into one of the left upper lobe pulmonary arteries.  
Additional 
subsegmental pulmonary emboli are seen within the left and right 
lower lobes. 
2. Slight interventricular septal flattening and dilatation of 
the right 
ventricle, raising possibility for right heart strain.  
Correlation with 
echocardiogram is suggested. 
3. Small region of nonenhancing pulmonary parenchyma at the left 
lower lobe, 
raising possibility for a small pulmonary infarct. 
4. Patchy bibasilar atelectasis and a trace left pleural 
effusion. 
5. Possible hepatic steatosis on this nondedicated exam. 

 
Brief Hospital Course:
TRANSITIONAL ISSUES
====================
[] Continued on rivaroxaban 15mg BID. He should continue this 
for 21 days to complete loading dose. Should then (on ___ 
transition to rivaroxaban 20mg daily for ___ months. 
[] There was possible hepatic steatosis noted on CTA chest; his 
PCP should consider evaluation for NAFLD. His liver enzymes were 
normal. 

BRIEF SUMMARY
==============
___ year old man who is status post greater saphenous vein radio 
frequency ablation, complicated by endovenous heat induced 
thrombus diagnosed ___ in ___ clinic started on 
rivaroxaban 15mg BID, who presented with pleuritic chest pain, 
found to have pulmonary embolism. 

ACUTE ISSUES
=============
#DVT
#Pulmonary Embolism
Provoked DVT in setting of radio frequency ablation of the 
greater saphenous vein. No known prior history of clots. He had 
started rivaroxaban 15mg BID as an outpatient, developed acute 
pleuritic chest pain 2 days later. Was found to have extensive 
pulmonary embolism of the left main pulmonary artery, left upper 
pulmonary artery, and throughout multiple subsegmental arteries. 
Troponin negative. He was observed while inpatient and remained 
hemodynamically stable, ambulatory sats 96% on RA. Continued on 
anticoagulation with rivaroxaban, should continue for 21 days to 
complete loading dose. Should then transition to rivaroxaban 
20mg daily for ___ months. 

CHRONIC ISSUES
=============== 
#GERD
-Continued home omeprazole

#Vitamin D deficiency
-Continued home Vitamin D supplementation

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Rivaroxaban 15 mg PO BID DVT/PE 
2. Omeprazole 20 mg PO BID 

 
Discharge Medications:
1.  Omeprazole 20 mg PO BID  
2.  Rivaroxaban 15 mg PO BID DVT/PE  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
==================
Pulmonary embolism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital with shortness of breath and chest 
pain, and were found to have a pulmonary embolism. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were evaluated by the cardiologists and the surgeons, who 
felt you could be watched for ___ hours safely, without 
surgery.
- You were kept on your rivaroxaban 15mg twice per day, which is 
your blood thinner. This keeps the clot from extending.
- Your heartrate and blood pressure were stable, and you did not 
require extra oxygen. This was all reassuring. You were able to 
walk around the hospital without any symptoms.
- You were feeling better, and were stable enough to leave the 
hospital. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.  
-You should follow up with your PCP, ___, in ___ days 
after leaving the hospital.
-Continue to take your rivaroxaban 15mg twice per day (12 hours 
apart) with food. This is important medication to prevent more 
clots from forming.

We wish you the best! 
 
Sincerely,  

Your ___ Team  

 
Followup Instructions:
___